US04619996
reacting said ethyl 2-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)selenazole-4-carboxylate with sodium methoxide to produce methyl 2-β-D-ribofuranosylselenazole-4-carboxylate; and

reactant | ethyl 2-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)selenazole-4-carboxylate | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)C=1[Se]C=C(N1)C(=O)OCC | C32H27NO9Se
reactant | sodium methoxide | C[O-].[Na+]
product | methyl 2-β-D-ribofuranosylselenazole-4-carboxylate | [C@@H]1([C@H](O)[C@H](O)[C@H](O1)CO)C=1[Se]C=C(N1)C(=O)OC | C10H13NO6Se
